US07935699B2
In a flask was placed sodium periodate (725 mg, 3.38 mmol) and water (6 mL). To this solution was then added (R)-2-(3-methyl-4-methylsulfanyl-phenyl)-3-((R)-3-oxo-cyclopentyl)-propionic acid (525 mg, 1.80 mmol) in methanol (11 mL). The reaction was then stirred at 25° C. for 1 h after which time there was a white precipitate. The reaction was then filtered through a plug of celite and the celite pad washed with chloroform. The filterate was concentrated in vacuo and then azeotroped with acetonitrile. The residue was then dissolved in methanol (20 mL) and added slowly to a solution of potassium permanganate (425 mg, 2.70 mmol) in water (5 mL) and stirred at 25° C. for 1 h. After this time the reaction turned dark brown and the solids were filtered off and washed with methanol. The filterate was concentrated in vacuo and the residue was dissolved in acetonitrile with a small amount of methanol and then concentrated with silica gel (2 g) in vacuo and purified on Biotage Flash chromatography system (40M column, silica gel, 20% methanol/ethyl acetate) to afford (R)-2-(4-methanesulfonyl-3-methyl-phenyl)-3-((R)-3-oxo-cyclopentyl)-propionic acid (523 mg, 90%) as a white solid: [α]31589=−90.0° (c=0.15, methanol); ES-HRMS m/e calcd for C16H20O5S (M+H)+ 325.1104, observed 325.1104; 1H NMR (300 MHz, DMSO-d6) δ 1.48 (m, 1H, CH), 1.78-2.35 (m, 8H, 4×CH2), 2.63 (s, 3H, ArCH3), 3.20 (s, 3H, SO2CH3), 3.67 (t, J=7.6 Hz, 1H, ArCHCO), 7.42 (m, 2H, Ar), 7.85 (d, Jo=8.6 Hz, 1H, Ar), 12.64 (s, 1H, CO2H).

reactant | sodium periodate | 3.38 mmol, 725 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | (R)-2-(3-methyl-4-methylsulfanyl-phenyl)-3-((R)-3-oxo-cyclopentyl)-propionic acid | 1.80 mmol, 525 mg | CC=1C=C(C=CC1SC)[C@H](C(=O)O)C[C@@H]1CC(CC1)=O | C16H20O3S
reactant | potassium permanganate | 2.70 mmol, 425 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 5 mL | O | H2O
reactant | water | 6 mL | O | H2O
solvent | methanol | 11 mL | CO | CH4O
product | (R)-2-(4-methanesulfonyl-3-methyl-phenyl)-3-((R)-3-oxo-cyclopentyl)-propionic acid | 523 mg, 90% | CS(=O)(=O)C1=C(C=C(C=C1)[C@H](C(=O)O)C[C@@H]1CC(CC1)=O)C | C16H20O5S
